US08614234B2
To a stirred solution of methyl 5-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-3-carboxylate (1.0 g, 3.23 mmol) in anhydrous THF (10 ml) was added 2-fluoro-5-methyl-phenylisocyanate (488 mg, 3.23 mmol). The mixture was stirred at room temperature for one hour and poured into 200 ml of 0.02M HCl solution with vigorous stirring. The resulting precipitates were filtered, washed with water, and dried in vacuo to give methyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate as white solid. Yield: 1.38 g, 93%.

reactant | methyl 5-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-3-carboxylate | 3.23 mmol, 1.0 g | NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OC)C=C1 | C17H15N3O3
reactant | 2-fluoro-5-methyl-phenylisocyanate | 3.23 mmol, 488 mg | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
reactant | HCl | 0.02M, 200 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OC)C=C1 | C25H21FN4O4
